US08389513B2
(E)-N-[3-((R)-2-Amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-3-furan-2-yl-acrylamide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-1) and (E)-3-furan-2-yl-acrylic acid following procedure I yielded the title compound after purification by preparative HPLC. MS (ISP): m/z=380.1 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F | C11H12F3N3O
reactant | (E)-3-furan-2-yl-acrylic acid | O1C(=CC=C1)/C=C/C(=O)O | C7H6O3
product | (E)-N-[3-((R)-2-Amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-3-furan-2-yl-acrylamide | NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1F)NC(\C=C\C=1OC=CC1)=O)(F)F | C18H16F3N3O3
